US08530667B2
A microwave vial is charged with 4-chloro-5-methyl-2-methylsulfanylpyrimidine (174 mg, 1 mmol), 10-oxa-tricyclo[5.2.1.0*2,6*]decane-3,5-dione (166 mg, 1 mmol), palladium acetate (12 mg, 0.05 mmol), X-Phos (48 mg, 0.1 mmol) and potassium phosphate (424 mg, 2 mmol). 1,2-dimethoxyethane (3 ml) is added and the reaction heated to 160° C., with stirring, for 30 minutes. Silica gel is added to the crude reaction mixture, the solvent is evaporated under reduced pressure and the residue is purified by flash chromatography on silica gel to give 4-(5-methyl-2-methylsulfanyl-pyrimidin-4-yl)-10-oxa-tricyclo[5.2.1.0*2,6*]decane-3,5-dione (34 mg).

reactant | 4-chloro-5-methyl-2-methylsulfanylpyrimidine | 1 mmol, 174 mg | ClC1=NC(=NC=C1C)SC | C6H7ClN2S
reactant | 10-oxa-tricyclo[5.2.1.0*2,6*]decane-3,5-dione | 1 mmol, 166 mg | C12C3C(CC(C3C(CC1)O2)=O)=O | C9H10O3
reactant | X-Phos | 0.1 mmol, 48 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | potassium phosphate | 2 mmol, 424 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | palladium acetate | 0.05 mmol, 12 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | 1,2-dimethoxyethane | 3 ml | COCCOC | C4H10O2
product | 4-(5-methyl-2-methylsulfanyl-pyrimidin-4-yl)-10-oxa-tricyclo[5.2.1.0*2,6*]decane-3,5-dione | 34 mg | CC=1C(=NC(=NC1)SC)C1C(C2C3CCC(C2C1=O)O3)=O | C15H16N2O3S
